US06110939
(±)-cis-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)-4-piperidinamine (1.2 g), 2-chloro-1-(2-thienylmethyl)-1H-benzimidazole (2.24 g) and copper (0.6 g) were stirred at 150° C. for 5 hours. The mixture was taken up in CH2Cl2 and filtered. The filtrate was washed with diluted NH4OH and stirred. The organic layer was separated, dried, filtered and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /(CH3OH/NH3) 97/3). The pure fractions were collected and the solvent evaporated. The residue was crystallized from CH3CN, yielding 1.87 g (35%) of (±)-cis-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)-N-[1-(2-thienylmethyl)-1H-benzimidazol-2-yl]-4-piperidinamine (comp. 76; mp. 201.4° C.).

reactant | (±)-cis-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)-4-piperidinamine | 1.2 g | CC=1C=C(C(=O)N2[C@H](C[C@H](CC2)N)CC2=CC=CC=C2)C=C(C1)C | C21H26N2O
reactant | 2-chloro-1-(2-thienylmethyl)-1H-benzimidazole | 2.24 g | ClC1=NC2=C(N1CC=1SC=CC1)C=CC=C2 | C12H9ClN2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper | 0.6 g | [Cu] | Cu
product | (±)-cis-1-(3,5-dimethylbenzoyl)-2-(phenylmethyl)-N-[1-(2-thienylmethyl)-1H-benzimidazol-2-yl]-4-piperidinamine | 1.87 g, 35% | CC=1C=C(C(=O)N2[C@H](C[C@H](CC2)NC2=NC3=C(N2CC=2SC=CC2)C=CC=C3)CC3=CC=CC=C3)C=C(C1)C | C33H34N4OS
